US07235571B2
in which A is a non-oxidizable organic or inorganic anion can be prepared by chlorinating 4-trifluoromethylnicotinamide with Cl2 in aqueous acid and, if desired, subsequent anion exchange and/or, if desired, reaction with a base to give N-chloro-4-trifluoromethylnicotinamide.

reactant | 4-trifluoromethylnicotinamide | FC(C1=CC=NC=C1C(=O)N)(F)F | C7H5F3N2O
reactant | Cl2 | ClCl | Cl2
product | N-chloro-4-trifluoromethylnicotinamide | ClNC(C1=CN=CC=C1C(F)(F)F)=O | C7H4ClF3N2O
